US05872118
A mixture of ethyl 2-(4,6-difluoro-1-hydroxy-1-indanyl)acetate (12.0 g 0.047 mol) and 1.0N sodium hydroxide (48 mL, 0.048 mol, Universal Scientific Supply Co.) in ethanol (75 mL) was stirred for 18 h at ambient temperature. The reaction mixture was concentrated in vacuo, diluted with water and washed with diethyl ether. The aqueous phase was neutralized with 1.0N hydrochloric acid (48 mL, 0.048 mol, Universal Scientific Supply Co.) and extracted with diethyl ether. The diethyl ether extract was dried over sodium sulfate, filtered and concentrated in vacuo to give a quantitative yield of crude 2-(4,6-difluoro-1-hydroxy-1-indanyl)acetic acid. This material was used immediately without further purification.

reactant | ethyl 2-(4,6-difluoro-1-hydroxy-1-indanyl)acetate | 0.047 mol, 12.0 g | FC1=C2CCC(C2=CC(=C1)F)(O)CC(=O)OCC | C13H14F2O3
reactant | sodium hydroxide | 1.0N | [OH-].[Na+]
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 2-(4,6-difluoro-1-hydroxy-1-indanyl)acetic acid | quantitative yield | FC1=C2CCC(C2=CC(=C1)F)(O)CC(=O)O | C11H10F2O3
